Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:1].[C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],3.96553600373
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],3.61330665254
[O:1][C@:2]([H:3])([C:4]#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]#[C:5][O:6][H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[H:11],1.69508885548
[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],-0.194035814378
[H:11].[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.8176138854400004
[H:1][C:2]([H:3])[C:11]([C:8]([C:6]#[C:5][C:4]([H:7])[H:10])[H:9])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]1=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.435235963419
[H:6].[O:1][O:2][C:3]#[C:4][H:5]>>[O:1][O:2][C:3][C:4]([H:5])[H:6],-3.20726720765
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-2.61521461712
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],0.719420257907
[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-6.4494625699
[C:4]([H:5])(=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.97974040767
[H:14].[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-3.9332612435300023
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5],1.63760229768
[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],-3.18217710495
[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[O:8][H:9])\[C:10]([H:11])([H:12])[H:13],4.9311581791400005
[C:10][O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-3.3598517366400005
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2](#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],1.6783452096399998
[H:5].[O:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[H:9]>>[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-2.9919237567400003
[O:1]=[C:2]([H:3])[C:4]1[C:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.69756348653
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],6.52443818793
[C:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1][O:2][C:3]#[C:4][H:5].[C:6]([H:7])[O:8][H:9],3.66277040481
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-3.06132812486
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.37345597821
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.69534925656
[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7]>>[C:1]#[C:2].[O:3]=[C:4]([H:5])[O:6][H:7],2.03935341358
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10],1.80722244617
[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.06035258194
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[H:8],3.53673836523
[H:11].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])/[C:9]([H:10])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-1.5817746621000002
